2179-02-13 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - transfused 2u pRBCs
   - continued on heparin gtt
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 1 mcg/Kg/min
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Other medications:
   HOME MEDICATIONS:
   Verapamil 240mg [**Hospital1 7**]
   Isosorbide MOnonitrite 60mg qday
   HCTZ 25mg qday
   Lipitor 20mg qday
   Lisinopril 40mg qday
   flomax
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-13**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 80 (68 - 88) bpm
   BP: 171/71(103) {136/71(103) - 185/97(109)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
           911 mL
   PO:
           TF:
   IVF:
   161 mL
   Blood products:
   750 mL
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    561 mL
   Respiratory support
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3,  very pleasant and talkative,
   talks very loudly.
   HEENT: NCAT. Sclera anicteric. Moist mucus membranes, EOMI. Conjunctiva
   were pink, no pallor or cyanosis of the oral mucosa.
   NECK: Supple with without JVD
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Systolic murmur at apex and diastolic decrescendo murmur
   at left USB. Delayed split S2.
   LUNGS: Ecchymosis on left chest. Resp unlabored, no accessory muscle
   use. CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. 1+ pulses
   Labs / Radiology
   309 K/uL
   8.4 g/dL
   92 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.2 mEq/L
   35 mg/dL
   105 mEq/L
   139 mEq/L
   24.1 %
   10.5 K/uL
         [image002.jpg]
                             [**2179-2-13**]  04:31 AM
   WBC
   10.5
   Hct
   24.1
   Plt
   309
   Cr
   0.9
   TropT
   1.55
   Glucose
   92
   Other labs: PT / PTT / INR:14.6/41.9/1.3, CK / CKMB /
   Troponin-T:472/11/1.55, Mg++:2.1 mg/dL
   Assessment and Plan
   77 year old man with history of HTN, HL, multiple falls who presented
   with lightheadedness, found to be anemic, hypertensive and s/p troponin
   leak.
   .
   # Type II MI/ Demand Ischemia:
   Known troponin leak to 9 at OSH, trending down. EKG with ST depressions
   laterally unclear if related to hypertrophy or laterally distributed
   ischemia. Likely large contribution of anemia, presumably new given
   recent GI blood loss. Currently asymptomatic.  Has been on heparin gtt
   overnight.
   - DC heparin gtt
   - continue ASA, Plavix, statin
   - transfuse RBCs to Hct upper 20s.
   - will not likely pursue a cath
   - BB and ACE for BP control
   .
   # Anemia:
   Known to be guaiac positive, although per pt's history, had had
   aggressive bleed several days ago and nothing gross since then. Likely
   lower GI bleed from known internal hemorrhoids.  Elevated BUN suggests
   upper GI source vs contraction.   Hct from this AM drawn prior to
   completion of transfusion, not accurate post-transfusion Hct.
   - GI will do upper and lower endoscopy on Monday
   - f/u iron panel
   - f/u post transfusion Hct today
   - maintain good IV access
   - type and cross, transfuse to Hct 25 given suspicion of active
   ischemia
   - IV Famotidine
   .
   #  Leukocytosis: improving.  Afebrile but negative UA and CXR.
   - will continue to monitor.
   .
   #  Hypertension:
   Started on labetalol last night to help w blood pressure control and
   nitro drip being weaned off.  Found home medications from pharmacy.
   - wean off nitro drip and start home Imdur
   - switch home verapamil to carvedilol
   - start home hctz, lisinopril.
   .
   FEN: Cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt
   CODE:  Presumed Full
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   16 Gauge - [**2179-2-13**] 01:07 AM
   20 Gauge - [**2179-2-13**] 01:08 AM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now  ;  callout tomorrow

2179-02-14 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: NSTEMI, GI bleed
   24 Hour Events:
   - troponin leak likely type II MI - stopped heparin drip, no cath
   - transfused 2u prbc yesterday. Hct at 25 - transfused another 1 u prbc
   - will check post hct with AM labs
   - chest pain free
   - [**Name (NI) 854**] [**Last Name (NamePattern1) **] (friend) --> ([**Telephone/Fax (1) 13111**]
   - GI - will do colonoscopy if evidence of active bleeding. If stable
   would prefer to do as outpt due to recent cardiac stress.
   - patient fell - tried to get off bed - on ground - neuro exam normal,
   got stat head CT, prelim read was negative
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 61 (48 - 80) bpm
   BP: 169/64(94) {101/44(65) - 171/109(116)} mmHg
   RR: 22 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,704 mL
                                                                    100 mL
   PO:
                                                                    400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    204 mL
   Blood products:
                                                                  1,100 mL
   Total out:
                                                                    975 mL
                                                                    325 mL
   Urine:
                                                                    975 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    729 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   GENERAL: WDWN male in NAD. Oriented x3.  [**Last Name (un) **]
   HEENT: NCAT. Sclera anicteric. Moist mucus membranes, EOMI. Conjunctiva
   were pinkish, slightly pale, no pallor or cyanosis of the oral mucosa.
   NECK: Supple without JVD elevation.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Systolic murmur at apex and diastolic decrescendo murmur
   at left USB.
   LUNGS: Resp unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. 1+ pulses
   Labs / Radiology
   330 K/uL
   10.1 g/dL
   128 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   29 mg/dL
   106 mEq/L
   139 mEq/L
   28.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2179-2-13**]  04:31 AM
                             [**2179-2-13**]  02:33 PM
                             [**2179-2-14**]  04:58 AM
   WBC
   10.5
   12.4
   Hct
   24.1
   25.3
   28.5
   Plt
   309
   330
   Cr
   0.9
   0.8
   TropT
   1.55
   Glucose
   92
   128
   Other labs: PT / PTT / INR:14.6/41.9/1.3, CK / CKMB /
   Troponin-T:472/11/1.55, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Imaging: [**2179-2-13**]: Non-contrast head CT.
   FINDINGS: There is no intra- or extra-axial hemorrhage, masses, mass
   effect,
   or shift of normally midline structures. The ventricles and sulci are
   moderately prominent, compatible with age-appropriate involutional
   changes.
   There are bilateral basal ganglia calcifications. There is mild
   periventricular white matter hypoattenuation, compatible with small
   vessel
   ischemic disease. Marked mucosal thickening is present in the left
   maxillary
   antrum. There are no fractures. Soft tissues are unremarkable. There
   are
   bilateral vertebral and intracranial carotid calcifications.
   IMPRESSION:
   1. No acute intracranial process.
   2. Marked left maxillary sinus mucosal thickening.
   Assessment and Plan
   77 year old man with history of HTN, HL, multiple falls who presented
   with lightheadedness, found to be anemic, hypertensive and s/p troponin
   leak.
   .
   # Type II MI/ Demand Ischemia:
   Known troponin leak to 9 at OSH, trending down. EKG with ST depressions
   laterally unclear if related to hypertrophy or laterally distributed
   ischemia. Likely large contribution of anemia, presumably new given
   recent GI blood loss. Currently asymptomatic.
   - continue ASA, atorvastatin
   - transfuse RBCs to Hct upper 20s.
   - will not likely pursue a cath
   - carvedilol, lisinopril for blood pressure control.
   .
   # Anemia:
   Known to be guaiac positive, although per pt's history, had had
   aggressive bleed several days ago and nothing gross since then. Likely
   lower GI bleed from known internal hemorrhoids.  Elevated BUN suggests
   upper GI source vs contraction.   Hematocrit currently stable at ~28
   - GI will do c-scope and possible EGD on Monday per GI recs
   - f/u iron panel
   - maintain good IV access
   - patient able to tolerate PO, give omeprazole 20mg [**Hospital1 **].
   .
   #Fall
 head CT negative
   - will continue to follow neurologic exam, mental stutus.
   .
   #  Leukocytosis: improving.  Afebrile but negative UA and CXR.
   - will continue to monitor.
   .
   #  Hypertension:
   -          on carvedilol, lisinopril, hydrochlorothiazide.
   -          Will continue to monitor.
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-13**] 02:00 AM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: Omeprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now.

2179-02-15 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - stable, started finished golytely prep overnight w red output in
   stool
   - GI stated he should stay in CCU for scope in the unit
   - started omeprazole 20mg [**Hospital1 **].  Stopped famotidine
   - complained of mild right upper chest pain, reproducible
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-15**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 56 (55 - 73) bpm
   BP: 146/49(76) {138/49(62) - 169/91(112)} mmHg
   RR: 15 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
                  Total In:
                                                                    840 mL
                  PO:
                                                                    840 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                      0 mL
   Urine:
                                                                  1,050 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -510 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: None, Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   GENERAL: WDWN male in NAD. Alert when awakened, Oriented x3.  Pleasant
   HEENT: NCAT. Sclera anicteric. Moist mucus membranes, EOMI. Conjunctiva
   were pinkish, slightly pale, no pallor or cyanosis of the oral mucosa.
   NECK: JVP 8
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. Systolic murmur at apex and murmur at left USB.
   LUNGS: Resp unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. 1+ pulses
   Labs / Radiology
   361 K/uL
   10.5 g/dL
   101 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   20 mg/dL
   104 mEq/L
   139 mEq/L
   29.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2179-2-13**]  04:31 AM
                             [**2179-2-13**]  02:33 PM
                             [**2179-2-14**]  04:58 AM
                             [**2179-2-14**]  04:21 PM
                             [**2179-2-15**]  05:11 AM
   WBC
   10.5
   12.4
   11.4
   12.3
   Hct
   24.1
   25.3
   28.5
   28.8
   29.6
   Plt
   [**Telephone/Fax (3) 13130**]61
   Cr
   0.9
   0.8
   0.7
   TropT
   1.55
   Glucose
   92
   128
   101
   Other labs: PT / PTT / INR:14.6/41.9/1.3, CK / CKMB /
   Troponin-T:472/11/1.55, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Imaging: CT ABD/CHEST:
   IMPRESSION:
   1. Several osseous fragments in left shoulder joint, which is also
   distended
   with fluid. While no overt or displaced fracture is seen, if there is
   recent
   trauma with resulting pain to the left shoulder, MRI may be considered
   for
   assessment for occult fracture. Age-indeterminate anterior/superior
   subluxation of the left glenohumeral joint, likely related to chronic
   rotator
   cuff injury.
   2. Extensive atherosclerotic disease involving the entire aorta and its
   major
   branches, and the coronary arteries.
   osterior subcutaneous tissues.
   ----------------------------
   CT HEAD:
   IMPRESSION:
   1. No acute intracranial process.
   2. Marked left maxillary sinus mucosal thickening.
   Assessment and Plan
   77 year old man with history of HTN, HL, multiple falls who presented
   with lightheadedness, found to be anemic, hypertensive and s/p troponin
   leak.
   .
   # Type II MI/ Demand Ischemia:
   Known troponin leak to 9 at OSH, trending down. EKG with ST depressions
   laterally unclear if related to hypertrophy or laterally distributed
   ischemia. Likely large contribution of anemia, presumably new given
   recent GI blood loss. Currently asymptomatic.  Will not likely pursue
   cardiac catheterization.  Hematocrit stable.
   - continue ASA, atorvastatin
   - transfuse as needed RBCs to Hct upper 20s.
   - continue blood pressure control.
   .
   # Anemia:
   Per patient, had aggressive bleed several days ago and nothing gross
   since then, has been guaiac positive since then.  Likely lower GI bleed
   from known internal hemorrhoids.  Elevated BUN suggests upper GI source
   vs contraction.   Hematocrit currently stable at ~28-29.  Finished
   Go-Lytely prep overnight.
   - GI will do colonoscopy today in CCU this AM
   - f/u iron panel
   - maintain good IV access
   - omeprazole 20mg [**Hospital1 **]
   .
   # s/p Fall
 head CT negative, no complaints
   - will continue to follow neurologic exam, mental stutus.
   .
   #  Leukocytosis:  stable at 12.  Afebrile ,  negative UA and CXR. No
   signs of infection.  [**Month (only) 51**] be reactive.
   - will continue to monitor.
   .
   #  Hypertension:
   -          on carvedilol, lisinopril, hydrochlorothiazide.
   - will start spironolactone
   -          Will continue to monitor.
   # Social
   Pt and wife live alone and cannot take care of each other well; wife
   with alzheimer
s home alone, watched by neighbors, got locked out of
   house a few days ago.
   - social work is following , Elder Services
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-14**] 03:45 PM
   Prophylaxis:
   DVT:  heparin subq
   Stress ulcer:   omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-16 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Type II NSTEMI secondary to diverticular bleed
   24 Hour Events:
   - TTE showed mild symmetric LVH w mild global hypokinesis suggestive of
   a diffuse process (toxin, metabolic, etc. - cannot exclude multivessel
   CAD if clinically suggested). Moderate PA systolic HTN. Increased PCWP.
   Small secundum atrial septal defect.
   - Colonoscopy showed diverticuli in sigmoid, old blood all the way up
   to cecum, no interventions; will need to monitor and call IR or
   Vascular if pt continues to bleed
   - per social work, pt's wife is now at [**Hospital3 735**] b/c was found
   wandering outside this AM
   - PM Hct drop from 29.6 to 26.6 --> transfused 1u pRBCs w approp bump
   in AM labs
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2179-2-15**] 09:30 AM
   Fentanyl - [**2179-2-15**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**81**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 65 (46 - 71) bpm
   BP: 188/67(100) {119/37(61) - 188/90(103)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                    799 mL
                                                                    246 mL
   PO:
                                                                    620 mL
                  TF:
   IVF:
                                                                     50 mL
   Blood products:
                                                                    129 mL
                                                                    246 mL
   Total out:
                                                                    875 mL
                                                                  1,470 mL
   Urine:
                                                                    875 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -76 mL
                                                                 -1,224 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: conjunctiva pink
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   348 K/uL
   10.4 g/dL
   108 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.1 mEq/L
   13 mg/dL
   102 mEq/L
   138 mEq/L
   30.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2179-2-13**]  04:31 AM
                             [**2179-2-13**]  02:33 PM
                             [**2179-2-14**]  04:58 AM
                             [**2179-2-14**]  04:21 PM
                             [**2179-2-15**]  05:11 AM
                             [**2179-2-15**]  05:00 PM
                             [**2179-2-16**]  03:56 AM
   WBC
   10.5
   12.4
   11.4
   12.3
   11.7
   Hct
   24.1
   25.3
   28.5
   28.8
   29.6
   26.6
   30.1
   Plt
   [**Telephone/Fax (3) 13130**]61
   348
   Cr
   0.9
   0.8
   0.7
   0.7
   TropT
   1.55
   Glucose
   92
   128
   101
   108
   Other labs: PT / PTT / INR:14.6/41.9/1.3, CK / CKMB /
   Troponin-T:472/11/1.55, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   77 year old man with history of HTN, HL, multiple falls who presented
   with lightheadedness, found to be anemic, hypertensive and s/p troponin
   leak.
   .
   # Type II MI/ Demand Ischemia:
   Known troponin leak to 9 at OSH, trending down. EKG with ST depressions
   laterally unclear if related to hypertrophy or laterally distributed
   ischemia. Likely large contribution of anemia, presumably new given
   recent GI blood loss. Currently asymptomatic.  Will not likely pursue
   cardiac catheterization.  Hematocrit stable.
   - continue ASA, atorvastatin
   - transfuse as needed RBCs to Hct upper 20s.
   - continue blood pressure control.
   .
   # Anemia:
   Per patient, had aggressive bleed several days ago and nothing gross
   since then, has been guaiac positive since then.  Likely lower GI bleed
   from known internal hemorrhoids.  Elevated BUN suggests upper GI source
   vs contraction. Patient transfused yesterday for hct 26.6.  Colonoscopy
   showed diverticuli yesterday.  Iron panel shows normal TIBC, ferritin
   but low iron.  No new bleeds since night of prep 2 nights ago.
   - start oral iron replacement today.
   - maintain good IV access
   - omeprazole 20mg [**Hospital1 **]
   - re-check hct in pm
   - follow up as outpatient with GI.
   .
   # s/p Fall
 head CT negative, no complaints
   - will continue to follow neurologic exam, mental stutus.
   .
   #  Leukocytosis:  decreasing now at 11.2.  Afebrile ,  negative UA and
   CXR. No signs of infection.  [**Month (only) 51**] be reactive.
   - will continue to monitor.
   .
   #  Hypertension:
   - on carvedilol, lisinopril, hydrochlorothiazide, spironolactone
   - Will continue to monitor.
   # Social
 wife is now at [**Hospital3 **].
   -          social work is following , Elder Services
   -          will speak with HCP [**Name (NI) 546**] [**Name (NI) 6627**] about potentially going to
   [**Hospital3 **].
   ICU Care
   Nutrition: cardiac, heart healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-16**] 01:28 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: omeprazole
   VAP:  n/a
   Comments:
   Communication:  [**Name (NI) 546**] [**Name (NI) 6627**] HCP ([**Telephone/Fax (1) 13137**] ([**Telephone/Fax (1) 13158**] Comments:
   Code status: Full code
   Disposition: transfer to medicine floor today.